US09145409B2
Intermediate 17. 4-((3-((S)-Phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)-methyl)phenoxy)methyl)benzoic acid (I17)
To a stirred solution of methyl 4-((3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl) phenoxy)methyl)benzoate (I14, 2.27 g, 4.50 mmol) in THF (23 mL) was added an aqueous solution of lithium hydroxide (2.0 M, 9.0 ml, 18.0 mmol). The mixture was stirred at RT for 16 hours. The pH of the reaction mixture was adjusted to 6 by the addition of 4M aqueous hydrochloric acid. The mixture was then extracted with 10% methanolic ethyl acetate (×2), the organic extracts were combined and the solvent was removed in vacuo. The residue was then dissolved in ethanol and re-evaporated at reduced pressure to afford the title compound as a pale yellow solid (1.85 g, 84%).

reactant | methyl 4-((3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl) phenoxy)methyl)benzoate | 4.50 mmol, 2.27 g | C1(=CC=CC=C1)[C@@H](C=1C=C(OCC2=CC=C(C(=O)OC)C=C2)C=CC1)NC(=O)O[C@H]1CN2CCC1CC2 | C30H32N2O5
reactant | lithium hydroxide | 18.0 mmol, 2.0 M, 9.0 ml | [OH-].[Li+]
reactant | hydrochloric acid | 4M | Cl | ClH
solvent | THF | 23 mL | C1CCOC1 | C4H8O
product | 4-((3-((S)-Phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)-methyl)phenoxy)methyl)benzoic acid | 1.85 g, 84% | C1(=CC=CC=C1)[C@@H](C=1C=C(OCC2=CC=C(C(=O)O)C=C2)C=CC1)NC(=O)O[C@H]1CN2CCC1CC2 | C29H30N2O5
